US07932262B2
To methyl 4-formyl-3-aminobenzoate (1 eq) was added urea (5 eq) and the mixture was heated to 145° C. for 16 h. To the crude was added water and the precipitated solid was filtered to give methyl 2-hydroxyquinazolin-7-carboxylate in quantitative yield. ES/MS m/z 205 (MH+).

reactant | methyl 4-formyl-3-aminobenzoate | 1 eq | C(=O)C1=C(C=C(C(=O)OC)C=C1)N | C9H9NO3
reactant | urea | 5 eq | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | methyl 2-hydroxyquinazolin-7-carboxylate | quantitative yield | OC1=NC2=CC(=CC=C2C=N1)C(=O)OC | C10H8N2O3
